US04743614
To a mixture of (2S, 3R)-2-[[(2S)-2-amino-3-carbamoylpropionyl] amino]-3-[[(1S)-1-carboxy-2-(4imidazolyl)ethyl]amino]butyric acid (500 mg) and triethylamine (0.38 ml) in a mixture of methanol(30 ml) and water (6 ml) was added acetic anhydride (0.13 ml) and the mixture was stirred for 20 hours at room temperature After removal of the solvent in vacuo, the residue was dissolved in water and adjusted to pH 3 with 1N hydrochloric acid. The solution was subjected to a column of Dowex 50W X 8 (H+ form, 10 ml) and the column was washed with water. The elution was carried out with 2% aqueous ammonia. The object fractions were collected and evaporated in vacuo and the residue was dissolved in a mixture of acetic acid (28.6 ml) and water (500 ml). The solution was lyophilized and the residue was solidified with methanol to give (2S, 3R)-2-[[(2S)-2-acetylamino-3-carbamoylpropionyl]amino]-3-[[(1S)-1 -carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid (500 mg).

reactant | (2S, 3R)-2-[[(2S)-2-amino-3-carbamoylpropionyl] amino]-3-[[(1S)-1-carboxy-2-(4imidazolyl)ethyl]amino]butyric acid | 500 mg | N[C@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)CC(N)=O | C14H22N6O6
reactant | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 0.13 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | methanol | 30 ml | CO | CH4O
solvent | water | 6 ml | O | H2O
product | (2S, 3R)-2-[[(2S)-2-acetylamino-3-carbamoylpropionyl]amino]-3-[[(1S)-1 -carboxy-2-(4-imidazolyl)ethyl]amino]butyric acid | 500 mg | C(C)(=O)N[C@H](C(=O)N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC=1N=CNC1)C(=O)O)CC(N)=O | C16H24N6O7
